US06255285B1
To a solution of 10.6 g (42.0 mmol) of Tyr(3-tBu)-OMe in 80 ml of methanol, 80 ml of a solution of 40% methylamine in methanol and 0.41 g of sodium cyanide were added and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in methylene chloride, followed by washing first with water, then with saturated brine. The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent consisting of chloroform, methanol and aqueous ammonia at a ratio of 20:1:0.1) to give Tyr(3-tBu)-NHMe in the amount of 7.3 g (70%).

reactant | Tyr(3-tBu)-OMe | 42.0 mmol, 10.6 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
reactant | methylamine | CN | CH5N
reactant | sodium cyanide | 0.41 g | [C-]#N.[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | Tyr(3-tBu)-NHMe | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NC | C14H22N2O2
